US08124636B2
To a suspension of lithiumaluminiumhydride (1.5 g) in dry diethyl ether (25 mL) at −20° C. was added dropwise a solution of 2-(4-fluoro-phenyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (4.25 g) in dry diethyl ether (20 mL) over 10 minutes. The reaction was stirred at −20° C. for 20 minutes and followed by TLC. After 30 minutes the reaction was quenched at −20° C. by adding saturated aqueous sodium sulfate solution dropwise until the lithium aluminium hydride reagent was fully quenched. Further solid sodium sulfate was added to the slurry and the mixture was allowed to warm to ambient temperature. The slurry was filtered and the solid was washed with further diethyl ether. The filtrate was collected and the diethyl ether was evaporated in vacuo to afford the desired 2-(4-fluoro-phenyl)-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (3.37 g, MS (ES+): 296.3 (MH+)) as a colourless oil.

reactant | lithiumaluminiumhydride | 1.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(4-fluoro-phenyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 4.25 g | COC(=O)C1(N(CCC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C17H22FNO4
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 2-(4-fluoro-phenyl)-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 3.37 g | C(C)(C)(C)OC(=O)N1C(CCC1)(CO)C1=CC=C(C=C1)F | C16H22FNO3
